US09238640B2
To a mixture of 5-bromo-1H-indole-2-carboxylic acid (1.0 g, 4.2 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (EDCl) (1.1 g, 5.9 mmol), 1-hydroxybenzotriazole hydrate (HOBt) (0.62 g, 4.6 mmol) in THF (20 mL) was added 4-methylmorpholine (NMM) (0.65 mL, 5.9 mmol). After 10 minutes, pyrrolidine (0.73 mL, 8.8 mmol) was added. The mixture was stirred at room temperature under nitrogen for 17 hours. The solvent was removed under reduced pressure. Water was added, stirred for 0.5 hours. The solid was filtered, washed with water, and dried in air to afford (5-bromo-1H-indol-2-yl)-pyrrolidin-1-yl-methanone as a pale yellow solid. Yield: 1.2 g (95%).

reactant | 5-bromo-1H-indole-2-carboxylic acid | 4.2 mmol, 1.0 g | BrC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6BrNO2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 5.9 mmol, 1.1 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 4.6 mmol, 0.62 g | O.ON1N=NC2=C1C=CC=C2
reactant | 4-methylmorpholine | 5.9 mmol, 0.65 mL | CN1CCOCC1 | C5H11NO
reactant | pyrrolidine | 8.8 mmol, 0.73 mL | N1CCCC1 | C4H9N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (5-bromo-1H-indol-2-yl)-pyrrolidin-1-yl-methanone | BrC=1C=C2C=C(NC2=CC1)C(=O)N1CCCC1 | C13H13BrN2O
